US06562989B2
N,N-dibutyl-4-methoxylaniline (Table 4, Entry 4)
According to the general procedure B, 4-chloroanisole (150 mg, 1.05 mmol) reacted with N,N-di-n-butylamine (160 mg, 1.24 mmol) using 1 mol % of catalyst and sodium tert-butoxide (120 mg, 1.25 mmol) at 100° C. for 20 h to give the title compound (230 mg, 93%) as an colorless oil: 1H-NMR (400 MHz, CDCl3): δ 6.74 (d, 2H, J=9.2 Hz), 6.58 (d, 2H, J=9.2 Hz), 3.68 (s, 3H), 3.11 (t, 4H, J=8.0 and 7.2 Hz), 1.45 (m, 4H), 1.26 (m, 4H), 0.86 (t, 6H, J=7.6 and 7.2 Hz). 13C{1H}-NMR (100 MHz, CDCl3): δ 150.96, 143.33, 114.79, 114.33, 55.82, 51.65, 29.46, 20.40, 14.02. GC/MS (EI): m/z 235 (M+), 235, 192, 150.

reactant | 4-chloroanisole | 1.05 mmol, 150 mg | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | N,N-di-n-butylamine | 1.24 mmol, 160 mg | C(CCC)NCCCC | C8H19N
reactant | sodium tert-butoxide | 1.25 mmol, 120 mg | CC(C)([O-])C.[Na+]
product | N,N-dibutyl-4-methoxylaniline | 230 mg, 93% | C(CCC)N(C1=CC=C(C=C1)OC)CCCC | C15H25NO
